US05578620
2-[5-(4-Methoxyphenoxymethyl)-2-oxooxazolidin-3-yl]propanol
A procedure similar to that described in Preparation 5(b) was repeated, except that 1.26 g of 3-(2-t-butyldimethylsilyloxy-1-methylethyl)-5-(4-methoxyphenoxymethyl)oxazolidin-2-one (polar isomer), obtained as described in Preparation 76, 9.6 ml of tetrabutylammonium fluoride (26% w/v in tetrahydrofuran) and 10 ml of anhydrous tetrahydrofuran were used, to give 0.86 g of the title compound, melting at 62° C. to 67° C., from the polar diastereomer.

reactant | 3-(2-t-butyldimethylsilyloxy-1-methylethyl)-5-(4-methoxyphenoxymethyl)oxazolidin-2-one | 1.26 g | [Si](C)(C)(C(C)(C)C)OCC(C)N1C(OC(C1)COC1=CC=C(C=C1)OC)=O | C20H33NO5Si
reactant | tetrabutylammonium fluoride | 9.6 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-[5-(4-Methoxyphenoxymethyl)-2-oxooxazolidin-3-yl]propanol | 0.86 g | COC1=CC=C(OCC2CN(C(O2)=O)C(CO)C)C=C1 | C14H19NO5
